US08071592B2
(a) Phenylmethyl [((3S)-1-{2-[6-(methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]ethyl}-3-piperidinyl)methyl]carbamate
[6-(Methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]acetaldehyde (for a preparation see Example 126(e)) (0.30 g, 1.36 mmol) was combined with phenylmethyl [(3R)-3-piperidinylmethyl]carbamate (for a preparation see Example 92(b)) (0.337 g, 1.36 mmol) in a 1:1 MeOH/DCM solution (30 mL). Excess Na2SO4 was added as a drying agent and the solution was stirred at ambient temperature for 16 h. NaBH(OAc)3 (0.86 g, 4.08 mmol) was added and the reaction was stirred an additional 2 h. The resulting solution was concentrated onto silica gel under vacuum and the crude residue was purified by column chromatography (silica gel) using a DCM/DCM-MeOH—NH4OH (90:10:1) gradient to yield the desired product as an off white solid (0.37 g, 61%).

reactant | [6-(Methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]acetaldehyde | COC=1C=CC2=C(N(C(C=N2)=O)CC=O)N1 | C10H9N3O3
reactant | phenylmethyl [(3R)-3-piperidinylmethyl]carbamate | N1C[C@@H](CCC1)CNC(OCC1=CC=CC=C1)=O | C14H20N2O2
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | NaBH(OAc)3 | 4.08 mmol, 0.86 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | MeOH DCM | 30 mL | CO.C(Cl)Cl
product | Phenylmethyl [((3S)-1-{2-[6-(methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]ethyl}-3-piperidinyl)methyl]carbamate | COC=1C=CC2=C(N(C(C=N2)=O)CCN2C[C@@H](CCC2)CNC(OCC2=CC=CC=C2)=O)N1 | C24H29N5O4
